US06706663B2
Preparation of Ethyl (R)-2-[5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl]-4-thiazolidinecarboxylate
To a mixture of L-cysteine ethyl ester hydrochloride (0.580 g, 3.12 mmol), potassium acetate (0.300 g, 3.06 mmol) and 50% acetone-water is added dropwise a solution 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde (1.00 g, 2.81 mmol) in acetone. The resultant mixture is stirred four days at room temperature and treated with additional L-cysteine ethyl ester hydrochloride (0.580 g, 3.12 mmol) and, potassium acetate (0.300 g, 3.06 mmol). The resultant mixture is warmed to 35° C. and stirred overnight. The mixture is concentrated in vacuo and the residue is extracted with methylene chloride. The organic layer is washed with water, treated with charcoal, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel with methylene chloride-ethyl acetate to afford the title compound as an off-white solid (0.600 g, 43.9%, mp 97-98° C.) which is identified by NMR spectral analysis.

reactant | L-cysteine ethyl ester hydrochloride | 3.12 mmol, 0.580 g | Cl.C(C)OC([C@@H](N)CS)=O
reactant | potassium acetate | 3.06 mmol, 0.300 g | C(C)(=O)[O-].[K+]
reactant | acetone water | CC(=O)C.O
reactant | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 2.81 mmol, 1.00 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
reactant | L-cysteine ethyl ester hydrochloride | 3.12 mmol, 0.580 g | Cl.C(C)OC([C@@H](N)CS)=O
reactant | potassium acetate | 3.06 mmol, 0.300 g | C(C)(=O)[O-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl (R)-2-[5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl]-4-thiazolidinecarboxylate | 0.600 g, 43.9% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)[C@H]2SCC(N2)C(=O)OCC)C1)=O | C19H17F3N4O4S2
